US06943183B2
1. (2-Hydroxy-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethylsulfanyl)acetic acid methyl ester
5-Chloromethyl-6-hydroxy-1-tetralone (315 mg, 1.5 mmol) and methyl thioglycolate (2.0 mL, 22 mmol) were combined in a septum capped round bottomed flask and heated to 40° C. overnight. The excess methyl thioglycolate was removed in vacuo and the pot residue was purified by silica gel chromatography (Rf=0.18, hexanes/ethyl acetate/acetic acid, 58:40:2) to give 219 mg (52%) of the desired compound as a colorless glass: 1H NMR (CDCl3) δ 2.02 (p, 2H, J=6.01 Hz); 2.50 (t, 2H, J=6.01 Hz); 2.89 (t, 2H, J=6.01 Hz); 3.19 (s, 2H); 3.64 (s, 3H); 3.85 (s, 2H); 6.79 (d, 1H, J=8.7 Hz); 7.83 (d, 1H, J=8.7 Hz); 8.59 (br s, 1H).

reactant | 5-Chloromethyl-6-hydroxy-1-tetralone | 1.5 mmol, 315 mg | ClCC1=C2CCCC(C2=CC=C1O)=O | C11H11ClO2
reactant | methyl thioglycolate | 22 mmol, 2.0 mL | C(CS)(=O)OC | C3H6O2S
product | (2-Hydroxy-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethylsulfanyl)acetic acid methyl ester | 219 mg, 52% | COC(CSCC1=C(C=CC=2C(CCCC12)=O)O)=O | C14H16O4S
